US04772606
8-Amino-9-(5-ethyl-2-thienylmethyl)guanine
A mixture of 8-bromo-9-(5-ethyl-2-thenyl)guanine (6.5 g; 18.3 mmol) and 60% aqueous hydrazine (200 ml) was heated to reflux under nitrogen atmosphere for 20 hours. 2-Methoxyethanol (50 ml) was added and the refluxing continued for an additional 48 hours in the open air. The orange-brown solution was cooled, diluted with water (150 ml) and allowed to crystallize in the refrigerator overnight. The crude product thus obtained was converted to the hydrochloride salt by recrystallizing from boiling isopropanol and 1N HCl. Yield, 0.49 g; mp 215°-218° C., dec.

reactant | 8-bromo-9-(5-ethyl-2-thenyl)guanine | 18.3 mmol, 6.5 g | BrC=1N(C=2N=C(NC(C2N1)=O)N)CC1=CC=C(S1)CC | C12H12BrN5OS
reactant | hydrazine | 200 ml | NN | H4N2
reactant | 2-Methoxyethanol | 50 ml | COCCO | C3H8O2
solvent | water | 150 ml | O | H2O
product | 8-Amino-9-(5-ethyl-2-thienylmethyl)guanine | NC=1N(C=2N=C(NC(C2N1)=O)N)CC=1SC(=CC1)CC | C12H14N6OS
